US05187189
1-[(6-Chlorohexyl)thio]-2-nitro-4-trifluoromethylbenzene
Following the procedures of Preparation 1, the title compound is prepared from 2-nitro-4-trifluoromethylthiophenol and 1-bromo-6-chlorohexane.

reactant | 2-nitro-4-trifluoromethylthiophenol | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S | C7H4F3NO2S
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
product | 1-[(6-Chlorohexyl)thio]-2-nitro-4-trifluoromethylbenzene | ClCCCCCCSC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H15ClF3NO2S
